US05872131
4-(4-hydroxy-1-piperidinyl)-1-(3,4,5-trimethoxyphenyl)-1-butanone (3.3 g) was added to a solution of sodium hydride (0.4 g) in tetrahydrofuran (100 ml) (solution I) under a N2 flow. A mixture of 5-amino-6-chloro-3,4-dihydro-2H-1-benzopyran-8-carboxylic acid (2.14 g) and 1,1'-carbonylbis-1H-imidazole (2 g) in acetonitril (100 ml) was stirred for 2 hours at room temperature and the solvent was evaporated. The residue was dissolved in tetrahydrofuran (100 ml) (solution II). At room temperature, solution (II) was poured out into solution (I) and the reaction mixture was stirred for 4 hours at room temperature. The solvent was evaporated. The residue was diluted with water and extracted twice with CH2Cl2. The separated organic layer was washed with water, dried over MgSO4, filtered and the solvent was evaporated. The residue was purified by column chromatography over silica gel (eluent: CH2Cl2 /hexane/(CH3OH/NH3) 50/42/3). The desired fractions were collected and the solvent was evaporated. The residue (2.3 g) was purified by high-performance liquid chromatography over silica gel (eluent: CH2Cl2 /CH3OH 90/10). The pure fractions were collected and the solvent was evaporated. The residue (1.2 g) was crystallized from diisopropyl ether. The precipitate was filtered off and dried, yielding 0.93 g of 1-[4-oxo-4-(3,4,5-trimethoxyphenyl)butyl]-4-piperidinyl 5-amino-6-chloro-3,4-dihydro-2H-benzopyran-8-carboxylate (17%); mp. 112.7° C. (compound 8).

reactant | 4-(4-hydroxy-1-piperidinyl)-1-(3,4,5-trimethoxyphenyl)-1-butanone | 3.3 g | OC1CCN(CC1)CCCC(=O)C1=CC(=C(C(=C1)OC)OC)OC | C18H27NO5
reactant | sodium hydride | 0.4 g | [H-].[Na+]
reactant | 5-amino-6-chloro-3,4-dihydro-2H-1-benzopyran-8-carboxylic acid | 2.14 g | NC1=C(C=C(C2=C1CCCO2)C(=O)O)Cl | C10H10ClNO3
reactant | 1,1'-carbonylbis-1H-imidazole | 2 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | acetonitril | 100 ml | C(C)#N | C2H3N
product | 1-[4-oxo-4-(3,4,5-trimethoxyphenyl)butyl]-4-piperidinyl 5-amino-6-chloro-3,4-dihydro-2H-benzopyran-8-carboxylate | 0.93 g, 17% | NC1=C(C=C(C2=C1CCCO2)C(=O)OC2CCN(CC2)CCCC(C2=CC(=C(C(=C2)OC)OC)OC)=O)Cl | C28H35ClN2O7
